US05506358
Toluene (10 ml), thionyl chloride (1.36 g, 11 mmol) and dimethylformamide (DMF) (0.1 ml) were added to the crude 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyiminoacetic acid (Z=at least 99%)(2.99 g, 9.5 mmol), and the mixture was stirred at 70° C. for 1.5 hours. After completion of the reaction, the mixture was concentrated to give crude 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyiminoacetyl chloride (E/Z=75/25).

reactant | Toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 11 mmol, 1.36 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyiminoacetic acid | 9.5 mmol, 2.99 g | CC1=C(OCC2=C(C=CC=C2)C(C(=O)O)=NOC)C=C(C=C1)C | C18H19NO4
solvent | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
product | 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyiminoacetyl chloride | CC1=C(OCC2=C(C=CC=C2)C(C(=O)Cl)=NOC)C=C(C=C1)C | C18H18ClNO3
